US05891889
A mixture of 2-benzyloxy-6-hydroxymethylpyridine (1.5 g, 7.0 mmol) and thionyl chloride (10 mL, 137 mmol) in benzene (25 mL) was stirred at room temp. overnight. The product mixture was concentrated under vacuum. The residue was partitioned between chloroform and aqueous sodium bicarbonate. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 5% methanol in chloroform. Collection and concentration of appropriate fractions provided 2-benzyloxy-6-chloromethylpyridine as clear, colorless oil. This alkylating reagent was passed through a small plug of activated basic alumina immediately before use.

reactant | 2-benzyloxy-6-hydroxymethylpyridine | 7.0 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1)CO | C13H13NO2
reactant | thionyl chloride | 137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | 2-benzyloxy-6-chloromethylpyridine | C(C1=CC=CC=C1)OC1=NC(=CC=C1)CCl | C13H12ClNO
